US05091384
Preparation of 1-tert-butyl-7-[3,7-diazabicylo [3.3.0] oct-1(5)-en-3-yl]-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
1-tert-Butyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.32 g), 3,7-diazabicyclo-[3.3.0] oct-1(5)-ene dihydrobromide (0.3 g) and 1,8-diazabicyclo [5.4.0] undec-7-ene (DBU, 0.55 ml) in acetonitrile (12 ml) was refluxed for 5 hours. The produced precipitate was collected by filtration, washed with acetonitrile and methanol to give the title compound (0.38 g, yield 92%)

reactant | 1-tert-Butyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.32 g | C(C)(C)(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C14H12F3NO3
reactant | 3,7-diazabicyclo-[3.3.0] oct-1(5)-ene dihydrobromide | 0.3 g | Br.Br.C1=2CNCC2CNC1
reactant | 1,8-diazabicyclo [5.4.0] undec-7-ene | 0.55 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 12 ml | C(C)#N | C2H3N
product | 1-tert-butyl-7-[3,7-diazabicylo [3.3.0] oct-1(5)-en-3-yl]-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.38 g, yield 92% | C(C)(C)(C)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC=2CNCC2C1)F)=O)C(=O)O | C20H21F2N3O3
